US05486525
Step 6: 5-[N-(3-aminopyrid-4-yl)aminomethyl]-2-carboxyethylfuran.
The desired compound was prepared by reduction of 5-[N-(3-nitropyrid-4-yl)aminomethyl]-2-carboxyethylfuran, prepared as in step 5, with tin(II) chloride.

reactant | 5-[N-(3-nitropyrid-4-yl)aminomethyl]-2-carboxyethylfuran | [N+](=O)([O-])C=1C=NC=CC1NCC1=CC=C(O1)CCC(=O)O | C13H13N3O5
reactant | tin(II) chloride | [Sn](Cl)Cl
product | 5-[N-(3-aminopyrid-4-yl)aminomethyl]-2-carboxyethylfuran | NC=1C=NC=CC1NCC1=CC=C(O1)CCC(=O)O | C13H15N3O3
